* C:\Program Files\LTC\LTspiceIV\LED_Array\LED_Array.asc
D§LED0_0 N001 N009 LED
Rload0 N009 N008 {Rload}
Rload1 N011 N010 {Rload}
Rload2 N013 N012 {Rload}
Vx0 N001 0 {Vx0}
Vx1 N002 0 {Vx1}
Vx2 N003 0 {Vx2}
Vy0 N008 0 {Vy0}
Vy1 N010 0 {Vy1}
Vy2 N012 0 {Vy2}
D§LED1_0 N002 N009 LED
D§LED2_0 N003 N009 LED
D§LED0_1 N001 N011 LED
D§LED1_1 N002 N011 LED
D§LED2_1 N003 N011 LED
D§LED0_2 N001 N013 LED
D§LED1_2 N002 N013 LED
D§LED2_2 N003 N013 LED
Vy3 N014 0 {Vy3}
Rload3 N015 N014 {Rload}
D§LED0_3 N001 N015 LED
D§LED1_3 N002 N015 LED
D§LED2_3 N003 N015 LED
D§LED3_0 N004 N009 LED
Vx3 N004 0 {Vx3}
Vx4 N005 0 {Vx4}
Vx5 N006 0 {Vx5}
D§LED4_0 N005 N009 LED
D§LED5_0 N006 N009 LED
D§LED3_1 N004 N011 LED
D§LED4_1 N005 N011 LED
D§LED5_1 N006 N011 LED
D§LED3_2 N004 N013 LED
D§LED4_2 N005 N013 LED
D§LED5_2 N006 N013 LED
D§LED3_3 N004 N015 LED
D§LED4_3 N005 N015 LED
D§LED5_3 N006 N015 LED
Vx6 N007 0 {Vx6}
D§LED6_0 N007 N009 LED
D§LED6_1 N007 N011 LED
D§LED6_2 N007 N013 LED
D§LED6_3 N007 N015 LED
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
***************************************************Vxy Parameters*********************************************
.param
+                  Vx0={Vgnd} Vx1={Vgnd} Vx2={Von} Vx3={Vgnd} Vx4={Vgnd} Vx5={Vgnd} Vx6={Vgnd}
+Vy0={Von}
+Vy1={Von}
+Vy2={Vgnd}
+Vy3={Von}
****************************************************** End Vxy Parameters***************************************
.param Rload=20 Von=3.7 Vgnd=0 Vfloat=0
.op
.include C:\Program Files\LTC\LTspiceIV\lib\sub\Arduino_Output.sub
.MODEL LED D
+ IS=4E-18
+ N=3.4
+ RS=5
+ EG=3.8
+ XTI=3
.backanno
.end
