* C:\Program Files\LTC\LTspiceIV\Photoresistor_Array\Photoresistor_Array.asc
R1 N004 N003 {R00}
D1 N003 Read0 D
R2 N006 N005 {R10}
D2 N005 Read0 D
R3 N004 N007 {R01}
D3 N007 Read1 D
R4 N006 N008 {R11}
D4 N008 Read1 D
Rload1 Read1 0 10k
Rload0 Read0 0 10k
XU1 N002 N006 arduino_output
XU2 N001 N004 arduino_output
V1 N002 0 {V1}
V0 N001 0 {V0}
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.include C:\Program Files\LTC\LTspiceIV\lib\sub\Arduino_Output.sub
.op
*************************** Resistance Parameters*******************
.param
+R00={Rdark} R10={Rdark}
+R01={Rdark} R11={Rdark}
*************************** End Resistance Parameters*************
.param Rdark=1MEG Rlight=1
*************************** Voltage Parameters*******************
.param
+V0={Rlight} V1={Rdark}
*************************** End Voltage Parameters*************
.backanno
.end
